US09376422B2
Step 5: methyl 5-bromo-3-(cyclopentyl(ethyl)amino)-2-methylbenzoate
To a stirred solution of methyl 3-bromo-5-(cyclopentylamino)benzoate (0.3 g, 0.96 mmol) in DMF (5 mL), cesium carbonate (0.628 g, 1.92 mmol) and ethyl iodide (0.748 g, 4.8 mmol) were added; resulting reaction mass was heated at 80° C. for 24 h. On completion, reaction mass was cooled to room temperature and filtered, residue was washed with ethyl acetate and filtrate was concentrated and then purified by column chromatography to afford desired compound (0.150 g, 46%).

reactant | methyl 3-bromo-5-(cyclopentylamino)benzoate | 0.96 mmol, 0.3 g | BrC=1C=C(C(=O)OC)C=C(C1)NC1CCCC1 | C13H16BrNO2
reactant | cesium carbonate | 1.92 mmol, 0.628 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl iodide | 4.8 mmol, 0.748 g | C(C)I | C2H5I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl 5-bromo-3-(cyclopentyl(ethyl)amino)-2-methylbenzoate | 0.150 g, 46% | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(CC)C1CCCC1 | C16H22BrNO2
